* RZM002P02 PMOSFET model
* Model Generated by ROHM
* All Rights Reserved
* Commercial Use or
* Resale Restricted
* Date: 2011/03/15
******************D G S
.SUBCKT RZM002P02 1 2 3
M1   11 22 3 3 MOS_P
D1         1 3 DDS
R1        1 11 RTH 663m
D2       11 22 DDG
R2        2 22 46
.MODEL MOS_P PMOS
+ LEVEL=3
+ L=2.0000E-6
+ W=1
+ KP=4.4061E-6
+ RS=10.000E-3
+ RD=0
+ VTO=-.92986
+ RDS=1.000E12
+ TOX=2.0000E-6
+ CGSO=75p
+ CGDO=4p
+ CBD=0
+ RG=0
+ N=2
+ RB=1.0000E-3
+ GAMMA=0.3
+ ETA=0.001
+ KAPPA=0
+ UO=300
+ NFS=12G
.MODEL DDS D
+ IS=23.815E-12
+ N=1.2693
+ RS=10.746E-3
+ IKF=19.411E-3
+ CJO=13.950E-12
+ M=.46995
+ VJ=.75361
+ ISR=45.357E-12
+ BV=20
+ TT=15n
.MODEL DDG D
+ CJO=12.155E-12
+ M=.67874
+ VJ=.75311
+ N=10000
+ FC=0.5
.MODEL RTH RES
+ TC1=0.0027
+ TC2=-0.000005
.ENDS RZM002P02
